US07199133B2
A solution of 5.00 g (36.2 mmol) of 4-nitroaniline and 6.41 g (36.2 mmol) of 3-chloropropanesulfonyl chloride in 20 ml of pyridine is stirred overnight at room temperature. The reaction mixture is then poured onto ice. The precipitate which deposits in the process is filtered off with suction and dried, giving N-(4-nitrophenyl)-3-chloropropane-1-sulfonamide as a yellowish solid; ESI 279.

reactant | 4-nitroaniline | 36.2 mmol, 5.00 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | 3-chloropropanesulfonyl chloride | 36.2 mmol, 6.41 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-nitrophenyl)-3-chloropropane-1-sulfonamide | [N+](=O)([O-])C1=CC=C(C=C1)NS(=O)(=O)CCCCl | C9H11ClN2O4S
